US05665726
8-Chloro-11((Z)-2,5-dimethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine
To a cooled (ice-bath), stirred solution of 8-chloro-5,6-dihydro-11 H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one (6.3 g, 26 mmol) in THF (50 mL) was added the above Grignard reagent. The reaction was allowed to stir for 1 hr. at this temperature and then quenched with NH4Cl solution. The product was extracted 3× with EtOAc, washed once with brine, dried (Na2SO4), filtered and solvent removed to give a crude brown material which was chromatographed to give the title compound (5.1 g, 53% yield) as a yellowish glass.

reactant | 8-chloro-5,6-dihydro-11 H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 26 mmol, 6.3 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=O)C1 | C14H10ClNO
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-Chloro-11((Z)-2,5-dimethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 5.1 g, 53% yield | ClC=1C=CC/2=C(CCC=3C(=NC=CC3)\C2=C/2\CC(NCC2C)C)C1 | C21H23ClN2
